* LC oscillator followed by RC low-pass filter

V1 in 0 1
R1 in out 0.01
L1 out mid 1m
C1 mid 0 1u IC=1

R2 mid filtered 1k
C2 filtered 0 100n

.TRAN 1e-7 0.002
.END